US07956066B2
B. 3-[4-(1-Methyl-piperidin-4-yl)-butoxy]-benzaldehyde.
To a stirred solution of 3-[4-(1-methyl-piperidin-4-yl)-butoxy]-benzonitrile (0.84 g, 3.09 mmol) in toluene (5 mL) at 0° C. was added 1.5 M DIBAL-H in toluene (4.63 mL, 4.63 mmol). After 3 h, methanol (9 mL) and 1.0 M H2SO4 (10 mL) were added dropwise. After stirring for 30 min, the solution was neutralized with 1.0 M sodium hydroxide (10 mL) followed by addition of satd. aq. sodium potassium tartrate (40 mL) and CH2Cl2 (100 mL). After stirring for 30 min the solution was extracted with CHCl3 (3×50 mL), washed with brine and dried over Na2SO4. Purification by Method 1 afforded 0.56 g (66%) of the title compound. 1H NMR (400 MHz, CDCl3): 9.97 (s, 1H), 7.46-7.43 (m, 2H), 7.39-7.37 (m, 1H), 7.19-7.15 (m, 1H), 4.02 (t, J=6.6, 2H), 2.86-2.80 (m, 2H), 2.25 (s, 3H), 1.92-1.83 (m, 2H), 1.83-1.75 (m, 2H), 1.73-1.63 (m, 2H), 1.54-1.44 (m, 2H), 1.34-1.18 (m, 5H).

reactant | 3-[4-(1-methyl-piperidin-4-yl)-butoxy]-benzonitrile | 3.09 mmol, 0.84 g | CN1CCC(CC1)CCCCOC=1C=C(C#N)C=CC1 | C17H24N2O
reactant | DIBAL-H | 1.5 M | CC(C)C[AlH]CC(C)C
reactant | H2SO4 | 1.0 M, 10 mL | OS(=O)(=O)O | H2O4S
reactant | sodium hydroxide | 1.0 M, 10 mL | [OH-].[Na+]
reactant | sodium potassium tartrate | 40 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.63 mmol, 4.63 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 9 mL | CO | CH4O
product | 3-[4-(1-Methyl-piperidin-4-yl)-butoxy]-benzaldehyde | 0.56 g, 66% | CN1CCC(CC1)CCCCOC=1C=C(C=O)C=CC1 | C17H25NO2
